US09029388B2
B) 9-[4-(Benzyloxy)phenyl]-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridine
A solution of 3-[4-(benzyloxy)phenyl]-3H-imidazo[4,5-b]pyridin-2-amine (1.58 g) and 6.1 M aqueous chloroacetoaldehyde solution (1.64 mL) in DMA (20 mL) was stirred at 90° C. for 1.5 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate) and recrystallized from hexane/THF to give the title compound (0.665 g).

reactant | 3-[4-(benzyloxy)phenyl]-3H-imidazo[4,5-b]pyridin-2-amine | 1.58 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=NC=2C1=NC=CC2)N | C19H16N4O
reactant | chloroacetoaldehyde | 6.1 M, 1.64 mL | ClCC=O | C2H3ClO
reactant | water | O | H2O
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | 9-[4-(Benzyloxy)phenyl]-9H-imidazo[1′,2′:1,2]imidazo[4,5-b]pyridine | 0.665 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C=2N(C=3C1=NC=CC3)C=CN2 | C21H16N4O
